US08067445B2
Step 6: [2′-(N′-Benzyl-N″-cyano-N-ethyl-guanidinomethyl)-6-methoxy-4′-trifluoromethyl-biphenyl-3-yl]-acetic acid ethyl ester
[2′-(3-Cyano-1-ethyl-2-phenyl-isoureidomethyl)-6-methoxy-4′-trifluoromethyl-biphenyl-3-yl]-acetic acid ethyl ester (0.10 g, 0.17 mmol) and benzylamine (0.04 mL, 0.34 mmol) were combined in EtOH (1 mL) and heated to 60° C. The reaction was monitored by analytical LCMS, and additional benzylamine (0.04 mL, 0.34 mmol) was added to push the reaction to completion. Further benzylamine (0.10 mL, 0.92 mmol) was added, and the reaction was heated for a total of 48 hours. The mixture was partitioned between EtOAc and H2O, and the aqueous layer was extracted with EtOAc. The combined organic layers were concentrated and purified by silica gel chromatography (0-50% EtOAc in hexanes) to give the title compound.

reactant | [2′-(3-Cyano-1-ethyl-2-phenyl-isoureidomethyl)-6-methoxy-4′-trifluoromethyl-biphenyl-3-yl]-acetic acid ethyl ester | 0.17 mmol, 0.10 g | C(C)OC(CC=1C=C(C(=CC1)OC)C1=C(C=C(C=C1)C(F)(F)F)CN(C(OC1=CC=CC=C1)=NC#N)CC)=O | C29H28F3N3O4
reactant | benzylamine | 0.34 mmol, 0.04 mL | C(C1=CC=CC=C1)N | C7H9N
reactant | benzylamine | 0.34 mmol, 0.04 mL | C(C1=CC=CC=C1)N | C7H9N
reactant | benzylamine | 0.92 mmol, 0.10 mL | C(C1=CC=CC=C1)N | C7H9N
solvent | EtOH | 1 mL | CCO | C2H6O
product | [2′-(N′-Benzyl-N″-cyano-N-ethyl-guanidinomethyl)-6-methoxy-4′-trifluoromethyl-biphenyl-3-yl]-acetic acid ethyl ester | C(C)OC(CC=1C=C(C(=CC1)OC)C1=C(C=C(C=C1)C(F)(F)F)CN(C(=NCC1=CC=CC=C1)NC#N)CC)=O | C30H31F3N4O3
